US05455258
Oxalyl chloride (106 mL, 1.22 mol) is added over 1 hour to dimethylformamide (92 mL) in methylene chloride (1250 mL) at 0° C. To this is added a solution of 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride (248 g, 0.6 mol) in dimethylformamide (450 mL) over 1 hour, maintaining the temperature at 0° C. This solution is stirred an additional 2 hours at room temperature, and then added dropwise to a mixture of hydroxylamine (460 g of a 50% aqueous solution, 6.82 mol) in tetrahydrofuran (2400 mL). The reaction is stirred an additional 3 hours at 5° C., and then at room temperature overnight. The reaction mixture is filtered, the organic layer is collected, and the solvent is evaporated. The crude product is re-dissolved in methylene chloride (2 L), washed with water (2×1 L), saturated sodium bicarbonate (4×1 L), brine (1 L), dried (Na2SO4), and the solvent is evaporated. The product is dissolved in ethyl acetate (700 mL) and diluted with ether (1400 mL) to induce precipitation. The pure product is collected by filtration to provide N-hydroxy-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanamide.

reactant | Oxalyl chloride | 1.22 mol, 106 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride | 0.6 mol, 248 g | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)C(C)C)CC=1C=NC=CC1
reactant | hydroxylamine | NO | H3NO
solvent | methylene chloride | 1250 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 450 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2400 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 92 mL | CN(C=O)C | C3H7NO
product | N-hydroxy-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanamide | ONC([C@@H](C(C)C)N(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C18H23N3O5S
